US07977339B2
Step C: Methyl 3-bromo-1-naphthoate.
A solution of 4.34 g (62.9 mmol) of sodium nitrite in 40 mL of water was added dropwise to a 0° C. solution of 11.5 g (57.2 mmol) of methyl 3-amino-1-naphthoate in 300 mL of ethanol and 60 mL of 48% aqueous hydrobromic acid while maintaining an internal reaction temperature below 10° C. After complete addition of the aqueous solution the resulting dark red reaction mixture was stirred at 0° C. for an additional 30 min. The cooled (0° C.) reaction mixture was then added over 20 min. to a suspension of 8.21 g (57.2 mmol) of cuprous bromide in 60 mL of ethanol and 60 mL of 48% aqueous hydrobromic acid heated to 95° C. After stirring for 30 min. the reaction mixture was cooled to 0° C. and carefully partitioned between ethyl ether (250 mL) and water (600 mL). The organic layer was separated and the aqueous layer was extracted with ethyl ether (2×300 mL). The combined organic layers were washed with brine (100 mL), dried over magnesium sulfate, filtered and concentrated in vacuo. The residue was passed through a plug of silica gel eluting with 30% dichloromethane in hexanes and the filtrate concentrated in vacuo. Flash chromatography on a Biotage® purification apparatus (silica gel, 7% dichloromethane/hexanes) yielded the title compound as a colorless solid. 1H NMR (DMSO-d6): δ 8.67 (d, J=8.4 Hz, 1 H), 8.50 (s, 1 H), 8.15 (s, 1 H), 8.02 (d, J=8.0 Hz, 1 H), 7.68-7.71 (m, 1 H), 7.63-7.66 (t, J=7.6 Hz, 1 H), 3.94 (s, 3H). LC/MS 265.0 (M+1) and 267.0 (M+3).

reactant | sodium nitrite | 62.9 mmol, 4.34 g | N(=O)[O-].[Na+]
reactant | methyl 3-amino-1-naphthoate | 57.2 mmol, 11.5 g | NC=1C=C(C2=CC=CC=C2C1)C(=O)OC | C12H11NO2
reactant | hydrobromic acid | 60 mL | Br | BrH
reactant | hydrobromic acid | 60 mL | Br | BrH
solvent | water | 40 mL | O | H2O
solvent | ethanol | 300 mL | C(C)O | C2H6O
solvent | ethanol | 60 mL | C(C)O | C2H6O
product | Methyl 3-bromo-1-naphthoate | BrC=1C=C(C2=CC=CC=C2C1)C(=O)OC | C12H9BrO2
